US04894385
Methyl 4-[1-(2-furyl)-2-(1-imidazolyl)ethylthio]benzoate
3.5 g of methyl 4-mercaptobenzoate and 2.5 g of 1-[2-hydroxy-2-(2-furyl)ethyl]imidazole were mixed, and 50.7 ml of trifluoroacetic acid were added, whilst ice-cooling, to the resulting mixture. The mixture was stirred at between 0° and 5° C. for 1 hour. At the end of this time, the reaction mixture was treated and purified similarly to the procedure described in Example 13, to yield 2.96 g of the title compound as a colorless oil.

reactant | methyl 4-mercaptobenzoate | 3.5 g | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-hydroxy-2-(2-furyl)ethyl]imidazole | 2.5 g | OC(CN1C=NC=C1)C=1OC=CC1 | C9H10N2O2
reactant | trifluoroacetic acid | 50.7 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 4-[1-(2-furyl)-2-(1-imidazolyl)ethylthio]benzoate | 2.96 g | O1C(=CC=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C17H16N2O3S
